US06800651B2
N-(4-Methoxycarbonylphenyl)pyrid-3-ylmethylamine
Alternately, 3-pyridinecarboxaldehyde ((61.6 g, 0.575 moles, 1 eq) and methyl 4-aminobenzoate (1-03.87 g, 0.687 moles, 1.2 eq) with p-toluenesulfonic acid (2.19 g, 0.012 moles, 0.02 eq) were refluxed in methanol (25 volumes) for 2 hours. The reaction mixture was cooled to 0° C. and sodium borohydride (67.6 g, 1.787 moles, 3.5 eq) added slowly then it was allowed to warm to ambient overnight. The reaction was concentrated, dissolved with dichloromethane and washed with water then brine, and evaporated to give the title compound.

reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | methyl 4-aminobenzoate | 0.687 moles, 1.2 eq | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | p-toluenesulfonic acid | 0.012 moles, 2.19 g, 0.02 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium borohydride | 1.787 moles, 67.6 g, 3.5 eq | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | N-(4-Methoxycarbonylphenyl)pyrid-3-ylmethylamine | COC(=O)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C14H14N2O2
